* source PROIECT1_CEF
Q_Q2         N289737 N289737 N307015 QBC856B 
R_R3         N289507 N289641  100 TC=0,0 
R_R9         N290143 N2900390  100 TC=0,0 
C_C1         N290143 0  22n  TC=0,0 
Q_Q9         N289507 N289867 N289857 QBC846B 
R_R7         N290677 N290519  51 TC=0,0 
R_R8         N290683 N290519  22 TC=0,0 
Q_Q4         N289737 N290143 N290213 QBC846B 
Q_Q6         N290213 N290653 N290677 QBC846B 
Q_Q8         N289867 N289751 N301532 QBC856B 
Q_Q7         N290433 N290653 N290683 QBC846B 
R_R10         N2900911 N289857  10k TC=0,0 
R_R16         N2895630 N314393  220 TC=0,0 
R_R15         N289507 N2895630  220 TC=0,0 
Q_Q3         N289751 N290133 N290213 QBC846B 
R_R5         N290653 0  3.9k TC=0,0 
Q_Q1         N289751 N289737 N289641 QBC856B 
Q_Q10         N290519 N290433 N289857 QBC856B 
R_R1         0 N290133  10k TC=0,0 
R_R12         N290291 N299621  15k TC=0,0 
R_R4         N289507 N307015  100 TC=0,0 
X_P2         0 N290291 N290207 POT PARAMS: SET=0 VALUE=10k
R_R2         N290133 N289857  10k TC=0,0 
X_U1         N289867 N290433 1N4148 
X_P1         N2900390 N289857 N289857 POT PARAMS: SET=1 VALUE=100
C_C2         N290143 0  33n  TC=0,0 
R_R18         N2991600 N302588  220 TC=0,0 
R_R17         N290519 N2991600  220 TC=0,0 
R_R11         N290207 N2900911  5.6k TC=0,0 
R_R13         N299621 N299617  2.2k TC=0,0 
R_R14         N299617 0  1.8k TC=0,0 
R_R19         N289507 N301532  51 TC=0,0 
C_C3         N289507 N301532  4.7u  TC=0,0 
Q_Q5         N290653 N290653 N302298 QBC846B 
R_R6         N302298 N290519  51 TC=0,0 
C_C4         N289751 N289867  4.7p  TC=0,0 
X_D2         0 N302588 LED PARAMS: IS=1.2680e-020 RS=2  BV=5 IBV=10e-6         
X_D1         N314393 0 LED PARAMS: IS=1.2680e-020 RS=2  BV=5 IBV=10e-6         
V_V1         N289507 0 9
V_V2         N290519 0 -9
